US08278290B2
(iv) 3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran
To a stirred solution of 2-t-butyldimethylsilyl-3-(3,4,5-trimethoxy-benzoyl)-6-methoxy-benzofuran (30 mg, 0.066 mmol) in tetrahydrofuran (1 mL) was added tetrabutylammoniumfluoride (76.5 μL, 0.076 mmol, 1M solution in tetrahydrofuran). The reaction mixture was stirred at room temperature for 20 minutes (tlc), diluted with ethyl acetate (10 mL) and washed with 1M hydrochloric acid (5 mL). The organic layer was dried over magnesium sulphate and the solvent was removed under vacuum. The crude product was purified by flash chromatography (silica gel, eluent=hexane/diethyl ether; 7:3) to afford the title product as a creamy crystalline solid; (19.3 mg, 86%); 1H NMR (300 MHz, CDCl3) δ 8.02(d, 1H, J=8.97 Hz), 8.01(s, 1H, C2H), 7.14(s, 2H, benzoyl Hs), 7.05(d, 1H, J=2.11 Hz), 7.00(dd, 1H, J=8.63, 2.11 Hz), 3.93(s, 3H, OMe), 3.90(s, 6H, 2×OMe), 3.87(s, 3H, OMe); 13C NMR (75 MHz, CDCl3) δ 188.71(CO), 158.64, 156.31, 152.82, 150.22, 141.72, 133.97, 122.58, 120.87, 118.12, 113.11, 106.07, 95.53, 60.63, 55.99, 55.40.

reactant | 2-t-butyldimethylsilyl-3-(3,4,5-trimethoxy-benzoyl)-6-methoxy-benzofuran | 0.066 mmol, 30 mg | [Si](C)(C)(C(C)(C)C)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2)OC | C25H32O6Si
reactant | tetrabutylammoniumfluoride | 0.076 mmol, 1M, 76.5 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | COC=1C=C(C(=O)C2=COC3=C2C=CC(=C3)OC)C=C(C1OC)OC | C19H18O6
